* File name: D:\Documents and Settings\sicard\Mes documents\software\Dsch\Dsch35\dsch35 full\examples\basic\cmosNand2.sch
* Software version: DSCH 3.5
* Created 09/06/2009 15:42:14
*
* Voltage and current sources
*
vdd 1 0 DC 1.0
VBTN1 3 0 DC 0 PULSE(0 1.0 1.00N 0.1N 0.1N 1.00N 3.00N )
VBTN2 5 0 DC 0 PULSE(0 1.0 2.00N 0.1N 0.1N 2.00N 5.00N )
*
* Passive devices
*
*
* Active devices
*
MN1 2 3 4 2 MN W=2.0u L=0.25u
MP1 1 3 4 1 MP W=2.0u L=0.25u
MP2 1 5 4 1 MP W=2.0u L=0.25u
MN2 0 5 2 0 MN W=2.0u L=0.25u
*
* Mos models in 0.12µm
* Model 3 n-channel MOS
.MODEL  TN  NMOS
+ LEVEL=3            TPG=+1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.1        ETA=0.002
+ DELTA=0.0          UO=620             VMAX=100E3       VTO=0.35
+ TOX=3e-9           XJ=0.1U            LD=0.00U         NSUB=1E+18
+ NSS=0.2            NFS=7E11
+ CJ=4.091E-4        MJ=0.307           PB=1.0
+ CJSW=3.078E-10     MJSW=1.0E-2
+ CGSO=3.93E-10      CGDO=3.93E-10
* Model 3 p-channel MOS
.MODEL  TP  PMOS
+ LEVEL=3            TPG=-1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.01         ETA=0.001
+ DELTA=0.0          UO=250             VMAX=500E3         VTO=-0.35
+ TOX=3E-9          XJ=0.1U             LD=0.0U             NSUB=1E+18
+ NSS=0.0            NFS=7E11
+ CJ=6.852E-4        MJ=0.429           PB=1.0
+ CJSW=5.217E-10     MJSW=0.351
+ CGSO=7.29E-10      CGDO=7.29E-10
.TRAN 0.1ns 250ns
* Dump time and volts in "cmosNand2.txt"
.control
run
set nobreak
print  V(3) V(5)  V(4)  > cmosNand2.txt
plot  V(3) V(5)  V(4) 
.endc
.OPTIONS DELMIN=0 RELTOL=1E-6
.END
